US08609647B2
(9) Optically-Active Compound of 3,3-difluoro-1,6-diazaspiro[3,4]octane-1,6-dicarboxylic acid 1-benzyl ester 6-tert-butyl ester
To a solution of an optically-active compound of 3-benzyloxycarbonylamino-3-(1,1-difluoro-2-methanesulfonyloxyethyl)pyrrolidine-1-carboxylic acid tert-butyl ester (565 mg) in N,N-dimethylformamide (17 ml) cooled to 0° C. was added sodium hydride (71 mg, with 40% mineral oil), and the mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the titled compound (397 mg).

reactant | 3-benzyloxycarbonylamino-3-(1,1-difluoro-2-methanesulfonyloxyethyl)pyrrolidine-1-carboxylic acid tert-butyl ester | 565 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(C(COS(=O)(=O)C)(F)F)NC(=O)OCC1=CC=CC=C1 | C20H28F2N2O7S
reactant | sodium hydride | 71 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | 3,3-difluoro-1,6-diazaspiro[3,4]octane-1,6-dicarboxylic acid 1-benzyl ester 6-tert-butyl ester | 397 mg | C(C)(C)(C)OC(=O)N1CC2(C(CN2C(=O)OCC2=CC=CC=C2)(F)F)CC1 | C19H24F2N2O4
